US04968702
3-Amino-6-fluoro-2-(4-bromophenyl)-4-quinolinecarboxylic acid
To a stirred suspension of 4.13 g of 5-fluoroisatin in 40 ml of water was added a solution of 5.62 g of sodium hydroxide in 20 ml of water. The solution was heated to 85° C. and a solution 8.8 g of 2-amino-1-(4-bromophenyl)ethanone hydrochloride in a mixture of 61 ml of ethanol and 15 ml of tetrahydrofuran and 61 ml of water was added dropwise over 2 hours. After the addition was complete, the solution was refluxed for an additional 30 minutes and then the ethanol and tetrahydrofuran were removed by distillation. The mixture was cooled to 20° C. and filtered through celite. The filtrate was acidified to pH 4 with acetic acid. The solid was filtered off, washed with water and dried, giving 7.8 g of the desired compound as a yellow solid, mp 231°-233° C.

reactant | 5-fluoroisatin | 4.13 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | sodium hydroxide | 5.62 g | [OH-].[Na+]
reactant | 2-amino-1-(4-bromophenyl)ethanone hydrochloride | 8.8 g | Cl.NCC(=O)C1=CC=C(C=C1)Br
solvent | water | 40 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | ethanol | 61 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 61 ml | O | H2O
product | 3-Amino-6-fluoro-2-(4-bromophenyl)-4-quinolinecarboxylic acid | 7.8 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)Br | C16H10BrFN2O2
